US08957066B2
(E)-3-(1-(2-phenoxyethyl)-1H-pyrazol-4-yl)acrylic acid
To a solution of (E)-ethyl 3-(1-(2-phenoxyethyl)-1H-pyrazol-4-yl)acrylate (0.143 g, 0.5 mmol) in EtOH (6 mL) was added KOH (0.168 g, 3 mmol) in water (2 mL) and the solution was heated at 60° C. for 6 h. The reaction mixture was then evaporated under vacuum and water (10 mL) was added to the residue. This solution was acidified to pH 4 with aqueous 3N HCl and extracted with EtOAc. The organic extracts were washed with water and brine, dried over Na2SO4 and evaporated in vacuo to get the acid (0.117 g, 91%) as a white solid. ES+(M+H)+259

reactant | (E)-ethyl 3-(1-(2-phenoxyethyl)-1H-pyrazol-4-yl)acrylate | 0.5 mmol, 0.143 g | O(C1=CC=CC=C1)CCN1N=CC(=C1)/C=C/C(=O)OCC | C16H18N2O3
reactant | KOH | 3 mmol, 0.168 g | [OH-].[K+]
solvent | EtOH | 6 mL | CCO | C2H6O
solvent | water | 2 mL | O | H2O
product | (E)-3-(1-(2-phenoxyethyl)-1H-pyrazol-4-yl)acrylic acid | 0.117 g, 91% | O(C1=CC=CC=C1)CCN1N=CC(=C1)/C=C/C(=O)O | C14H14N2O3
